US07491716B2
Methyl (4-oxo-4,5-dihydrofuro[3,2-c]pyridin-7-yl)acetate
Combine 7-(hydroxymethyl)furo[3,2-c]pyran-4-one (8.28 g, 49.8 mmol), ammonium acetate (76.8 g, 996 mmol), and glacial acetic acid and heat at reflux for 3.5 hours. Cooling to room temperature, pouring into ethylacetate, washing with water saturated aqueous sodium bicarbonate, and brine, drying over magnesium sulfate, filtering and concentrating gives 4.42 g (42%) of the title compound.

reactant | 7-(hydroxymethyl)furo[3,2-c]pyran-4-one | 49.8 mmol, 8.28 g | OCC=1C2=C(C(OC1)=O)C=CO2 | C8H6O4
reactant | ammonium acetate | 996 mmol, 76.8 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Methyl (4-oxo-4,5-dihydrofuro[3,2-c]pyridin-7-yl)acetate | 4.42 g, 42% | O=C1NC=C(C2=C1C=CO2)CC(=O)OC | C10H9NO4
